US07666888B2
(5-(4-Chlorophenyl)isoxazol-4-yl)(3-(pyridin-3-yl)pyrrolidin-1-yl)methanone
To a 150 mL round-bottomed flask equipped with magnetic stirring was added 3-(pyrrolidin-3-yl)pyridine (1.0 g, 6.7 mmol, source: ASDI Inc.) in 25 mL of N-methylpyrrolidinone (NMP). To this solution was added 5-(4-chlorophenyl)isoxazole-4-carboxylic acid (1.6 g, 7.1 mmol, source: CiVentiChem), 1-hydroxybenzotriazole (1.0 g, 7.4 mmol), and 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (1.6 g, 8.1 mmol), and the mixture was stirred at ambient temp. After ca. 4 days, water was added (ca. 150 mL) and the aqueous layer was extracted with EtOAc (3×75 mL). The organic extracts were combined, washed with water, sat'd NaHCO3, and brine. The organic layers were combined and dried over MgSO4, filtered and concentrated in vacuo. The crude material was absorbed onto silica gel and purified on a 120 g Isco Redi-sep® silica gel column using CH2Cl2 with 3% (2M NH3 in CH3OH) as the eluant to give the desired product. Mass Spec. m/z+ion=354.1, m/z negative ion=352.1.

reactant | 3-(pyrrolidin-3-yl)pyridine | 6.7 mmol, 1.0 g | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
reactant | 5-(4-chlorophenyl)isoxazole-4-carboxylic acid | 7.1 mmol, 1.6 g | ClC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 1-hydroxybenzotriazole | 7.4 mmol, 1.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 8.1 mmol, 1.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N-methylpyrrolidinone | 25 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | (5-(4-Chlorophenyl)isoxazol-4-yl)(3-(pyridin-3-yl)pyrrolidin-1-yl)methanone | ClC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C=1C=NC=CC1 | C19H16ClN3O2
